US07427632B2
3-Chloro-N-[1-(2-pyridinyl)-2-(1-methylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide
Using alkylation method B, 3-chloro-N-[1-(2-pyridinyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (30 mg, 0.07 mmol) and paraformaldehyde (15 mg, 0.12 mmol) afforded, after purification (SiO2: 10% isopropylamine in DCM), 20 mg (65%) of the title compound.

reactant | 3-chloro-N-[1-(2-pyridinyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 0.07 mmol, 30 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=NC=CC=C1 | C22H25ClN4O2
reactant | paraformaldehyde | 0.12 mmol, 15 mg | C=O | CH2O
product | 3-Chloro-N-[1-(2-pyridinyl)-2-(1-methylpiperidin-4-yl-methoxy)ethyl]-1H-indole-6-carboxamide | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)C)C1=NC=CC=C1 | C23H27ClN4O2
